US07514566B2
5-Bromo-1-(methoxymethyl)indoline-2,3-dione
To a 500 mL round-bottomed flask, was added 5-bromoisatin (5.00 g, 22.1 mmol), formaldehyde dimethyl acetal (111 mL, 22.1 mmol), and boron trifluoride diethyl etherate (16.7 mL, 133 mmol). The resulting mixture was heated at 40° C. TLC (1:1 hexane:EtOAc) showed starting material was consumed. The mixture was then diluted with EtOAc (100 mL) and washed with brine/water (60 mL), brine (60 mL) and brine/bicarbonate (60 mL). The organic layer was dried over sodium sulfate and evaporated to provide an orange solid. The solid was taken up in EtOAc (50 mL) with heating, and hexane (10 mL) was added until the mixture became cloudy. A black precipitate formed immediately that should have been removed. The mixture was heated to reflux and allowed to stand at room temperature and then at −20° C. Orange red crystals were filtered washing with hexane and manually separated from the black precipitate to provide the title compound (2.97 g, 49.7% yield) as a red crystalline solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.29 (s, 3H), 5.08 (s, 2H), 7.19 (d, J=8.22 Hz, 1H), 7.77 (s, 1H), 7.85 (s, 1H).

reactant | 5-bromoisatin | 22.1 mmol, 5.00 g | BrC=1C=C2C(C(NC2=CC1)=O)=O | C8H4BrNO2
reactant | formaldehyde dimethyl acetal | 22.1 mmol, 111 mL | COCOC | C3H8O2
reactant | boron trifluoride diethyl etherate | 133 mmol, 16.7 mL | B(F)(F)F.CCOCC
reactant | hexane | CCCCCC | C6H14
reactant | hexane | 10 mL | CCCCCC | C6H14
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 5-Bromo-1-(methoxymethyl)indoline-2,3-dione | 2.97 g, 49.7% yield | BrC=1C=C2C(C(N(C2=CC1)COC)=O)=O | C10H8BrNO3
